US07411071B2
To N-(4-ethoxymethyl-thiazol-2-yl)-acetamide (35 mg, 0.175 mmol) in THF (2 ml) was added 6N HCl (2 ml). The reaction was heated at 60° C. for 4 hours, stirred at room temperature overnight and then heated at 60° C. for additional 3 hours. The solution was concentrated to afford 4-ethoxymethyl-thiazol-2-ylamine as a viscous yellow oil (22 mg, 65% ). LC/MS m/z 159.05 (M+1)+; HPLC Rt: 0.34 min.

reactant | N-(4-ethoxymethyl-thiazol-2-yl)-acetamide | 0.175 mmol, 35 mg | C(C)OCC=1N=C(SC1)NC(C)=O | C8H12N2O2S
reactant | HCl | 6N, 2 ml | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-ethoxymethyl-thiazol-2-ylamine | 22 mg, 65% | C(C)OCC=1N=C(SC1)N | C6H10N2OS
